US04413006
1.07 g of 4-(2-fluorophenyl)piperazine and 1.5 ml of triethylamine are added to a solution of 1.5 g of 2-(4-acetamido-2-methoxyphenoxy)-1-(p-toluenesulfonyloxy)ethane in 10 ml of anhydrous dimethylformamide, and the mixture is stirred at 100° C. for 6 hours. After the reaction, the mixture is poured into ice-water, and the aqueous mixture is extracted with chloroform. The extract is washed with water and an aqueous saturated sodium chloride solution, successively. Said extract is dried and then evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel chromatography (Solvent; 2% methoanol/chloroform), and then recrystallized from a mixture of ethyl acetate and n-hexane. 1.3 g of 1-[2-(4-acetamido-2-methoxyphenoxy)ethyl]-4-(2-fluorophenyl)-piperazine are thereby obtained as colorless scales. Yield: 85%

reactant | 4-(2-fluorophenyl)piperazine | 1.07 g | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(4-acetamido-2-methoxyphenoxy)-1-(p-toluenesulfonyloxy)ethane | 1.5 g | C(C)(=O)NC1=CC(=C(OCCOS(=O)(=O)C2=CC=C(C=C2)C)C=C1)OC | C18H21NO6S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[2-(4-acetamido-2-methoxyphenoxy)ethyl]-4-(2-fluorophenyl)-piperazine | 1.3 g, Yield: 85% | C(C)(=O)NC1=CC(=C(OCCN2CCN(CC2)C2=C(C=CC=C2)F)C=C1)OC | C21H26FN3O3
